US09029544B2
3-Isobutyryl-1,8-dioxaspiro[4.5]dec-3-en-2-one
2.16 g 4-Methoxypyridine-1-oxide hydrate and 5.57 g 2-iodoxybenzoic acid (45 wt-%) are suspended in 20 ml dimethylsulfoxide and stirred for 20 minutes until all material has dissolved. Then 3.0 g 3-isobutyryl-1,8-dioxaspiro[4.5]decan-2-one are added and the mixture is stirred for 24 hours. The mixture is diluted with saturated solution of sodium bicarbonate in water and the formed precipitate is filtered off. The mother liquor is extracted for three times with ethylacetate. The combined organic phases are dried with sodium sulphate and the solvents are evaporated in vacuo. The residue is chromatographed on silica gel (petrole ether/ethylacetate 100:0 to 40:60).

reactant | 4-Methoxypyridine-1-oxide hydrate | 2.16 g | O.COC1=CC=[N+](C=C1)[O-]
reactant | 2-iodoxybenzoic acid | 5.57 g | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
reactant | 3-isobutyryl-1,8-dioxaspiro[4.5]decan-2-one | 3.0 g | C(C(C)C)(=O)C1C(OC2(C1)CCOCC2)=O | C12H18O4
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 3-Isobutyryl-1,8-dioxaspiro[4.5]dec-3-en-2-one | C(C(C)C)(=O)C=1C(OC2(C1)CCOCC2)=O | C12H16O4
